US08048887B2
Methyl 3,5-dihydroxy-4-methylbenzoate
3,5-Dihydroxy-4-methylbenzoic acid (5.0 g, 29.79 mmol, 1.0 eq) and PTSA (1.13 g, 5.94 mmol, 0.2 eq) were dissolved in 50 ml of methanol, and the mixture was heated to reflux for 6 h. Methanol was evaporated. The resultant solid was washed with 10% sodium bicarbonate solution. The aqueous solution was extracted thrice with ethyl acetate. The combined organic layer was dried over sodium sulphate and evaporated under vacuum. Yield: 5.25 g (96%). 1H NMR (400 MHz, DMSO-d6): δ 1.98 (s, 3H), 3.78 (s, 3H), 6.93 (s, 2H), 9.53 (s, 2H). LCMS: (ES+) m/z=183 (M+H) Method: Column: PHENOMENEX® Luna C18 (4.6×30) mm, 5 micron. Mphase A: 10% MeOH-90% H2O-10 mM NH4OAc. Mphase B: 90% MeOH-10% H2O-10 mM NH4OAc. Flow: 5 ml/min

reactant | 3,5-Dihydroxy-4-methylbenzoic acid | 29.79 mmol, 5.0 g, 1.0 eq | OC=1C=C(C(=O)O)C=C(C1C)O | C8H8O4
reactant | PTSA | 5.94 mmol, 1.13 g, 0.2 eq | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | methanol | 50 ml | CO | CH4O
product | Methyl 3,5-dihydroxy-4-methylbenzoate | OC=1C=C(C(=O)OC)C=C(C1C)O | C9H10O4
